US07816380B2
To a solution of benzyl 4-hydroxycyclohexane carboxylate (32.1 g, 137.2 mmol) in 400 mL of dichloromethane was added pyridinium chlorochromate (68.8 g, 274.0 mmol) in portions over 10 minutes. After two hours, the reaction was filtered through a large plug of silica gel eluting with 30% ethyl acetate in hexane to afford benzyl 4-oxocyclohexane carboxylate as an oil.

reactant | benzyl 4-hydroxycyclohexane carboxylate | 137.2 mmol, 32.1 g | OC1CCC(CC1)C(=O)OCC1=CC=CC=C1 | C14H18O3
reactant | pyridinium chlorochromate | 274.0 mmol, 68.8 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | benzyl 4-oxocyclohexane carboxylate | O=C1CCC(CC1)C(=O)OCC1=CC=CC=C1 | C14H16O3
